US04065473
Preparation of 2,3,4,5-Tetrahydro-3-methyl-7,8-methylenedioxy-1H-3-benzazepine
19.1 g (0.1 M) of 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine base was dissolved in 100 ml of methanol and 12 ml of 37% formaldehyde (0.148 moles) added thereto. In a few minutes, a new precipitate began to form with the evolution of heat. To this suspension 5 g of methanol-washed Raney nickel was added and the mixture shaken under 50 lbs. of hydrogen pressure. Uptake of hydrogen was complete in about an hour after which the excess hydrogen was vented, the catalyst removed by filtration, washed and the combined filtrates freed of solvent in the rotary evaporator. To remove the excess formaldehyde, the residue was dissolved in 100 ml of benzene, the solution washed four times with water, then dried, and the solvent distilled leaving a syrup. This was distilled from a small Claisen flask at reduced pressure, to yield three fractions. The fraction showing a boiling point of 166°-167°/mm contained the above-named product.

reactant | 2,3,4,5-tetrahydro-7,8-methylenedioxy-1H-3-benzazepine | 0.1 M, 19.1 g | C1OC2=CC3=C(CCNCC3)C=C2O1 | C11H13NO2
reactant | formaldehyde | 0.148 moles, 12 ml | C=O | CH2O
solvent | methanol | 100 ml | CO | CH4O
product | 2,3,4,5-Tetrahydro-3-methyl-7,8-methylenedioxy-1H-3-benzazepine | CN1CCC2=C(CC1)C=C1C(=C2)OCO1 | C12H15NO2
